US06498166B1
iii) 3-Bromo-2-(4-fluorophenyl)pyrazolo[1,5-a]pyridine-6-carbonitrile
A solution of 2-(4-fluorophenyl)pyrazolo[1,5-a]pyridine-6-carbonitrile (0.6 g 2.53 mmol) and NBS (0.5 g 2.8 mmol) in DMF (10 ml) was stirred at room temperature for 2 hr. The reaction was poured into water (100 ml) and extracted with ethyl acetate (2×30 ml). The combined extracts were washed with water (30 ml), brine (30 ml), dried and purified by biotage chromatography. Elution with cyclohexane/ethyl acetate (20:1) gave the title compound as a white solid (0.483 g 61%). NMR: (CDCl3): δ 7.21 (2H, t) 7.30 (1H, dd) 7.62 (1H, dd) 8.06 (2H, m) 8.80 (1H, s).

reactant | 2-(4-fluorophenyl)pyrazolo[1,5-a]pyridine-6-carbonitrile | 2.53 mmol, 0.6 g | FC1=CC=C(C=C1)C1=NN2C(C=CC(=C2)C#N)=C1 | C14H8FN3
reactant | NBS | 2.8 mmol, 0.5 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | water | 100 ml | O | H2O
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 3-Bromo-2-(4-fluorophenyl)pyrazolo[1,5-a]pyridine-6-carbonitrile | 0.483 g, 61% | BrC=1C(=NN2C1C=CC(=C2)C#N)C2=CC=C(C=C2)F | C14H7BrFN3
